US06110935
1-(Benzofurazan-5-ylcarbonyl)piperidine (2)
Benzofurazan-5-carboxylic acid (2.0 g, 12.2 mmol) was suspended in 10 mL dichloromethane. Carbonyl diimidazole (2.0 g, 12.3 mmol) was added, which caused dissolution with gas evolution. The resulting yellow solution was stirred for 40 minutes at room temperature, following which, piperidine (1.2 g, 14.1 mmol) was added. The solution was stirred overnight and then concentrated onto silica. Product was eluted with hexane/ethyl acetate (2:1) and purified by distillation in a kugelrohr at 155-170° C. and 0.5 mmHg. 1-(Benzofurazan-5-ylcarbonyl)piperidine, 2 (2.78 g, 99%), initially a pale yellow oil, crystallized upon cooling. M.p. 88.5-90.5° C. IR: 2938, 2857, 1630, 1519, 1439, 1266, 1223, 996, 881, 816, and 740 cm-1. 1H NMR (500 MHz): δ 7.90 (1H, d, J=9.7 Hz); 7.84 (1H, s); 7.44 (1H, dd, J=9.4 and 1.4 Hz); 3.74 (2H, br s); 3.39 (2H, br s); 1.72 (4H, br s); and 1.57 ppm (2H, br s).

reactant | Benzofurazan-5-carboxylic acid | 12.2 mmol, 2.0 g | N1=C2C(=NO1)C=C(C=C2)C(=O)O | C7H4N2O3
reactant | Carbonyl diimidazole | 12.3 mmol, 2.0 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | piperidine | 14.1 mmol, 1.2 g | N1CCCCC1 | C5H11N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(Benzofurazan-5-ylcarbonyl)piperidine | N1=C2C(=NO1)C=C(C=C2)C(=O)N2CCCCC2 | C12H13N3O2
